* D:\ltspice_raw2csv\Test_example\skill-ltspice\examples\RC_filter.asc
* Generated by LTspice 24.1.10 for Windows.
V1 vin 0 PULSE(0 10 100u 1u 1u 100u)
R1 vout N001 1
C1 vout 0 1µ
R2 vout 0 1k
R3 N001 vin 1
C2 N001 0 1µ
.tran 0 300u 0m 1u startup
.backanno
.end
